US04060536
The process of the invention is performed with the exclusion of moisture simply by mixing urea with a slight excess of hexamethyldisilazane to which the catalyst is added prior to use. It matters not which of the two reactants is added to the other. Neither is the purity of the starting products of any importance and technical qualities can be used, especially, the hexamethyldisilazane does not have to be subjected to any special purifiction beforehand. The reaction mixture is then raised to the boiling temperature, with stirring, and refluxed, the boiling point of the hexamethyldisilazane establishing itself. During the reaction, pure ammonia escapes in a steady stream and is sold for reuse. During the reaction, the urea passes completely into solution, and N,N'-bis-trimethylsilylurea is produced in great volume in the form of fine needles. The isolation of the product can be undertaken by simple distillation, filtration or centrifugation of the fluid components by conventional methods for their removal. A preferred method of separation consists in distilling out the fluid components with stirring by means of known stirrers for solids.

reactant | urea | NC(=O)N | CH4N2O
reactant | hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | ammonia | N | H3N
product | N,N'-bis-trimethylsilylurea | C[Si](NC(=O)N[Si](C)(C)C)(C)C | C7H20N2OSi2
